EE18BTECH11034_2.NET - OPAMP CLOSED-LOOP STEP RESPONSE FOR PHASE MARGIN 45 DEGREES
* STEP INPUT
VS	1	0	AC	1	PWL(0US 0V   0.1US 1V   10US 1V)
*

R1	2	0	10
R2	2	4	700
XOP	1 2 	4	OPAMP1	


.SUBCKT OPAMP1      1   2 7
* INPUT IMPEDANCE
RIN	1	2	100MEG
* DC GAIN (100K) AND POLE 1 (10HZ) AND POLE 2(10K HZ)
EGAIN	3 0	1 2	100K
RP1	3	4	1K
CP1	4	0	15.915UF
RP2     4       5       5.3K
CP2     5       0       3000PF
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	6 0	5 0	1
ROUT	6	7	10
.ENDS

* ANALYSIS
.AC 	DEC 	10 10 10MEG
.TRAN 	0.01US  1MS
*

* VIEW RESULTS
.control
run
plot V(1)V(4)
wrdata ee18btech11034_2.dat V(4)
.endc 

.end

